Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
___ Pacemaker implantation

 
History of Present Illness:
___ female past medical history hypertension,
hyperlipidemia, CKD stage III, obstructive sleep apnea who
presented to the emergency room with recurring episodes of 
severe
lightheadedness/presyncope.  Patient had a loop monitor 
implanted
on ___, she was called by her outpatient cardiologist who
noted that she had a three 5 to 6-second pauses.  She states 
that
at approximately 2300 on ___, she had a episode where she
experienced dizziness and a "wave of warmth" throughout her
entire body.  She stated the last for 45 to 60 seconds, resolve
spontaneously and recurred 5 minutes later.  She stated that 
this
is similar to prior episodes that she experienced over the past
___ years and as that it was less severe than the previous
episodes.  She reports that she was nauseous during the episode
but denied emesis.

She denies chest pain/shortness breath/diaphoresis.  Denies
palpitations or fluttering sensation but states that her heart
may have been beating faster.  Denies lightheadedness when
standing up.  Per chart review, she had an event monitor which 
we
approximately for fibrillation.  Her cardiac monitoring device
information: Cardiac Monitoring Device, Reveal LINQ Insertable,
Cardiac Monitor LNQ11
Model# ___. S/L# ___.

The patient was seen by the EP team in the emergency room who
recommended admission is old plan for permanent pacemaker on
___ with Dr. ___.  Patient was made n.p.o. at midnight. 
Her device was interrogated with a report pending at the time of
admission.

In the ED: 
-Initial vitals: 98.1 163/42 72 16 98% on room air
-EKG: Normal sinus rhythm rate 66, PR interval 200, QRS 100, QTc
437.  Normal axis.  No ST elevations or depressions.  No obvious
Q waves.
-Labs/studies notable for: Creatinine 1.9, BUN 45.  proBNP 1078. 

Hemoglobin 10.7.  Platelets 143.  Small leukocyte esterase
urinalysis.  Chest x-ray showing no pulmonary edema and no
obvious consolidations.
-Patient was given: Nothing
-Vitals on transfer: 98.1 136/69 62 18 100% room air
 
On the floor the patient confirms the above history.  She has no
complaints at this time, is feeling quite well overall.  She has
had no recurrence of the flushing episodes are she described
previously.  She report lower extremity edema is chronic and at
baseline.

Denies fever/chills/chest pain/shortness
breath/cough/palpitations.  No nausea/vomiting.  No abdominal
pain/dysuria/diarrhea/constipation.  No rash no
myalgia/arthralgia.  No lightheadedness/dizziness.  No dark
stools/melena/bright red blood per rectum.

Per chart review, visit on ___, the event monitor was
interrogated which showed heart rates of 130 bpm, with an 
average
of rate 70 to 100 bpm in A. fib.  At that visit she reported 
mild
dyspnea on exertion going upstairs.  She denies palpitations.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
-Proximal atrial fibrillation
3. OTHER PAST MEDICAL HISTORY
-GERD
-Rheumatoid arthritis
-Interstitial lung disease
-Obstructive sleep apnea
-Pulmonary hypertension
-Hepatic steatosis
-CKD
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=====================  
VITALS:  ___ 0145 Temp: 98.0 PO BP: 159/74 HR: 60 RR: 17 O2
sat: 98% O2 delivery: Ra 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa.  
NECK: Supple, JVP not visualized.
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2.  ___ systolic murmur at right upper
sternal border.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Trace pitting edema bilaterally to mid shin. Warm
well perfused
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAMINATION:  
=====================  
VITALS:
24 HR Data (last updated ___ @ 1051)
    Temp: 97.7 (Tm 98.3), BP: 131/75 (102-153/56-78), HR: 63 
(55-89), RR: 17 (___), O2 sat: 99% (93-99), O2 delivery: RA  
GENERAL: Well-developed, well-nourished. NAD. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor or cyanosis of the oral mucosa.  
NECK: Supple, JVP not visualized.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2.  ___ systolic murmur at right upper 
sternal border.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Trace pitting edema bilaterally to mid shin. Warm 
well perfused
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS
================
___ 07:35PM BLOOD WBC-9.0 RBC-3.42* Hgb-10.7* Hct-34.1 
MCV-100* MCH-31.3 MCHC-31.4* RDW-13.1 RDWSD-47.7* Plt ___
___ 07:35PM BLOOD Neuts-56.6 ___ Monos-12.0 Eos-1.6 
Baso-0.3 Im ___ AbsNeut-5.12 AbsLymp-2.61 AbsMono-1.08* 
AbsEos-0.14 AbsBaso-0.03
___ 07:35PM BLOOD ___ PTT-30.4 ___
___ 07:35PM BLOOD Glucose-105* UreaN-45* Creat-1.9* Na-139 
K-4.6 Cl-100 HCO3-26 AnGap-13
___ 07:35PM BLOOD Calcium-9.4 Phos-3.9 Mg-2.5
___ 07:35PM BLOOD proBNP-1078*
___ 07:35PM BLOOD cTropnT-<0.01
___ 11:20PM BLOOD cTropnT-<0.01

PERTINENT STUDIES
=================
PA AND LATERAL CHEST XRAY ___
FINDINGS:    
PA and lateral views of the chest provided.   
The lungs are well expanded.  There is bibasilar atelectasis.  
Prominence of interstitial markings is suggestive of pulmonary 
vascular congestion.  Mild cardiomegaly is demonstrated.  There 
is no large pleural effusion.   
IMPRESSION:     
1. Pulmonary vascular congestion. 
2. Bibasilar consolidations are nonspecific and could represent 
atelectasis or, in the appropriate clinical setting, pneumonia. 

PA AND LATERAL CHEST XRAY ___
IMPRESSION:    
Lungs are well expanded with stable peripheral fibrosis.  
Cardiomediastinal silhouette is stable.  Small bilateral 
effusions are unchanged.  Left-sided pacemaker leads project to 
the right atrium and right ventricle.  No pneumothorax.  There 
is no pleural effusion 

DISCHARGE LABS
==================
___ 05:44AM BLOOD WBC-8.3 RBC-3.48* Hgb-11.0* Hct-34.0 
MCV-98 MCH-31.6 MCHC-32.4 RDW-12.7 RDWSD-45.5 Plt ___
___ 05:44AM BLOOD Glucose-104* UreaN-29* Creat-1.2* Na-142 
K-4.4 Cl-104 HCO3-25 AnGap-13
___ 05:44AM BLOOD Calcium-9.5 Phos-3.9 Mg-2.4
 
Brief Hospital Course:
SUMMARY STATEMENT:
====================
___ female past medical history of proximal atrial
fibrillation with implanted cardiac monitor, sent in by
outpatient cardiology team due to three 5 to 6-second pauses,
and received a permanent pacemaker placement with Dr.
___ without complication. The pacemaker was interrogated and 
was functioning properly and an xray was done that confirmed 
that the leads were in the correct location. She has been 
intermittently in afib and sinus rhythm. Continued beta blocker, 
metoprolol succinate 100 XL daily.

TRANSITIONAL ISSUES:
====================
[] Cardiology appointment on ___ 12:00PM to calibrate your 
pacemaker at ___ Card___. 

[] Primary care appointment with ___ 2:00 ___ ___, 
___ Md ___ 

[] Should follow up in device clinic at ___

CONTACT:
Name of health care proxy: ___ 
___: friend 
Phone number: ___ 
CODE STATUS: full confirmed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Lisinopril 20 mg PO DAILY 
6. Humira (adalimumab) 40 mg/0.8 mL subcutaneous every other 
week 
7. Omeprazole 20 mg PO DAILY 
8. Torsemide 5 mg PO 3X/WEEK (___) 
9. Vitamin D ___ UNIT PO DAILY 
10. Ketoconazole 2%  1 Appl TP DAILY:PRN groin rash 
11. Multivitamins 1 TAB PO DAILY 
12. Torsemide 4 mg PO 4X/WEEK (___) 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Apixaban 5 mg PO BID  
3.  Atorvastatin 40 mg PO QPM  
4.  Humira (adalimumab) 40 mg/0.8 mL subcutaneous every other 
week  
5.  Ketoconazole 2%  1 Appl TP DAILY:PRN groin rash  
6.  Lisinopril 20 mg PO DAILY  
7.  Metoprolol Succinate XL 100 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  Torsemide 4 mg PO 4X/WEEK (___)  
11.  Torsemide 5 mg PO 3X/WEEK (___)  
12.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Atrial fibrillation
Sick sinus syndrome

SECONDARY DIAGNOSES:
GERD
Obstructive sleep apnea
CKD
HTN
Dyslipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had pauses in 
your heart beat that were noted on your LINQ.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- In the hospital, you had a pacemaker placed. You were 
monitored overnight and discharged home.

WHAT SHOULD I DO WHEN I GO HOME?
- Please take all of your medications exactly as prescribed and 
attend all of your follow-up appointments listed below.

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___